US04966975
Step (2) Preparation of 5-Amino-2-naphthoic Acid
A mixture of ethyl 5-amino-2-naphthoate (7.0 g, 0.0325 mol), dioxane (40 ml), and 1N NaOH (39 mL) was stirred at room temperature for 16 hours. The dioxane was removed under reduced pressure, H2O (50 mL) was added, and the mixture was neutralized with acetic acid (2.23 mL). The resulting brown solid precipitate was collected by filtration to give the desired product (5.4 g, 89%), m.p. 231°-234° C.

reactant | ethyl 5-amino-2-naphthoate | 0.0325 mol, 7.0 g | NC1=C2C=CC(=CC2=CC=C1)C(=O)OCC | C13H13NO2
reactant | NaOH | 1N, 39 mL | [OH-].[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 5-Amino-2-naphthoic Acid | 5.4 g, 89% | NC1=C2C=CC(=CC2=CC=C1)C(=O)O | C11H9NO2
